US03983111
21-Bromo-3α-hydroxy-2β-methoxy-5α-pregnan-20-one
A stirred solution of 3α-hydroxy-2β-methoxy-5α-pregnan-20-one (4.0 g.) in dry methanol (300 ml.) was treated at 0° with a solution of bromine (0.65 ml.) in methanol (15 ml.) at such a rate that the yellow colour disappeared before further addition. The mixture was then poured into water and the precipitated solid was collected by filtration, washed with water and dried in vacuo to give title compound (4.0 g) as white crystals.

reactant | 3α-hydroxy-2β-methoxy-5α-pregnan-20-one | 4.0 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(C[C@@H]1OC)C)C | C22H36O3
reactant | bromine | 0.65 ml | BrBr | Br2
reactant | water | O | H2O
solvent | methanol | 300 ml | CO | CH4O
solvent | methanol | 15 ml | CO | CH4O
product | 21-Bromo-3α-hydroxy-2β-methoxy-5α-pregnan-20-one | 4.0 g | BrCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H]([C@H](C[C@]4(C)[C@H]3CC[C@]12C)OC)O)=O | C22H35BrO3
